US08071768B2
a. 4-(2-Methoxy-ethoxy)-phenylamine
A mixture of 4-iodoaniline (219 mg, 1.0 mmol), 2-methoxyethanol (152 mg, 2.0 mmol), copper iodide (19.0 mg, 0.1 mmol), cesium carbonate (554 mg, 1.7 mmol) and 1,10-phenanthroline (36.0 mg, 0.2 mmol) was stirred in toluene (0.5 mL) at 110° C. overnight. The reaction was then cooled to RT and filtered through silica gel and washed with diethyl ether. The ether was removed in vacuo to obtain a crude solid. Purification by prep tlc (1:9 MeOH/DCM) afforded the title compound as a solid (8.9 mg, 5.3%). 1H NMR (300 MHz, CDCl3) δ 6.82-6.72 (m, 4H), 4.06 (t, 2H), 3.72 (t, 2H), 3.45 (s, 3H).

reactant | 4-iodoaniline | 1.0 mmol, 219 mg | IC1=CC=C(N)C=C1 | C6H6IN
reactant | 2-methoxyethanol | 2.0 mmol, 152 mg | COCCO | C3H8O2
reactant | cesium carbonate | 1.7 mmol, 554 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1,10-phenanthroline | 0.2 mmol, 36.0 mg | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
solvent | toluene | 0.5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | copper iodide | 0.1 mmol, 19.0 mg | [Cu](I)I
product | 4-(2-Methoxy-ethoxy)-phenylamine | 8.9 mg, 5.3% | COCCOC1=CC=C(C=C1)N | C9H13NO2
